US06117885
A. 2-Ethyl-3-[[2'-[2-(triphenylmethyl)-2H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]oxy]-4-quinolinecarboxylic acid
A mixture of the title compound of Example 2, 2-ethyl-3-[[2'-(2H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]-oxy]-4-quinolinecarboxylic acid, dilithium salt (700 mg, 1.6 mmol), triethyl amine (245 microliters, 1.76 mmol), triphenylmethyl chloride (468 mg, 1.68 mmol) and acetone (8 mL) was stirred at room temperature for 36 hours. The mixture was concentrated in vacuo to yield the crude product as a waxy solid (1.35 g, 100%).

reactant | 2-ethyl-3-[[2'-(2H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]-oxy]-4-quinolinecarboxylic acid | C(C)C1=NC2=CC=CC=C2C(=C1OC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NNN1)C(=O)O | C25H19N5O3
reactant | dilithium | 1.6 mmol, 700 mg | [Li][Li] | 2Li
reactant | triethyl amine | 1.76 mmol, 245 microliters | C(C)N(CC)CC | C6H15N
reactant | triphenylmethyl chloride | 1.68 mmol, 468 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | acetone | 8 mL | CC(=O)C | C3H6O
product | 2-Ethyl-3-[[2'-[2-(triphenylmethyl)-2H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]oxy]-4-quinolinecarboxylic acid | C(C)C1=NC2=CC=CC=C2C(=C1OC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O | C44H33N5O3
